US03989841
A slurry of 7-nitro-α-methylfluorene-2-acetic acid methyl ester (13.1 g) in 78% ethanol (400 ml) is treated with a solution of calcium chloride (4.5 g) in water (6.1 ml), zinc dust (127 g) and charcoal (4.6 g) and the mixture refluxed for 2.5 hours. The hot mixture is filtered and the cake washed with hot 78% ethanol. The filtrate is diluted with water (800 ml) and extracted with chloroform. The chloroform extracts are dried (MgSO4) and evaporated to give 10.1 g of 7-amino-α-methylfluorene-2-acetic acid methyl ester.

reactant | 7-nitro-α-methylfluorene-2-acetic acid methyl ester | 13.1 g | COC(C(C1=CC=2CC3=CC(=CC=C3C2C=C1)[N+](=O)[O-])C)=O | C17H15NO4
reactant | calcium chloride | 4.5 g | [Cl-].[Ca+2].[Cl-]
reactant | charcoal | 4.6 g | C | CH4
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 6.1 ml | O | H2O
catalyst | zinc | 127 g | [Zn] | Zn
product | 7-amino-α-methylfluorene-2-acetic acid methyl ester | 10.1 g | COC(C(C1=CC=2CC3=CC(=CC=C3C2C=C1)N)C)=O | C17H17NO2
